US06518282B1
1-(2-Iodoethoxy)cyclopentane
To a solution of 2-(cyclopentyloxy)ethyl 4-bromobenzenesulfonate (Preparation 16, 60 mg, 0.17 mmol) in acetone (5 mL) at room temperature was added sodium iodide (200 mg, 1.3 mmol). The mixture was,heated at 35° C. for 16 hours and then cooled. The residual precipitate was removed by filtration and the filtrate was concentrated in vacuo. The residue was partitioned between diethyl ether (10 mL) and water (10 mL). The two layers were separated and the organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to give the title compound (15 mg, 37%) as a brown oil.

reactant | 2-(cyclopentyloxy)ethyl 4-bromobenzenesulfonate | 0.17 mmol, 60 mg | BrC1=CC=C(C=C1)S(=O)(=O)OCCOC1CCCC1 | C13H17BrO4S
reactant | sodium iodide | 1.3 mmol, 200 mg | [I-].[Na+]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 1-(2-Iodoethoxy)cyclopentane | 15 mg, 37% | ICCOC1CCCC1 | C7H13IO
